US05360811
5-(1-decynyl)-2-benzo[b]thiophenecarboxaldehyde
To a solution of 5° (1-decynyl)benzo[b]thiophene (20.0 g) in dry ether (150 ml), under nitrogen, was added n-butyllithium (2.5M in hexanes) (32.6 ml) dropwise, with stirring at room temperature. The solution was stirred at room temperature, under nitrogen, for 2.5 hrs and then cooled to -60° C. A solution of dry dimethylformamide (5.95 g) in dry ether (15 ml) was added dropwise, and the reaction mixture was allow to warm to room temperature. The reaction mixture was quenched with ammonium chloride solution and the layers separated. The aqueous phase was extracted with ether, the organic extracts combined, dried over anhydrous sodium sulfate, filtered, and the filtrate was evaporated. The residue was flash chromatographed (silica: 3-4%, ethyl acetate:heptane). The appropriate fractions were collected and evaporated. The residue was recrystallized from heptane to give 11.5 g (52.0%) of product, mp 45°-47° C.

reactant | (1-decynyl)benzo[b]thiophene | 20.0 g | C(#CCCCCCCCC)C1=CC2=C(S1)C=CC=C2 | C18H22S
reactant | n-butyllithium | 2.5M, 32.6 ml | C(CCC)[Li]
reactant | dimethylformamide | 5.95 g | CN(C=O)C | C3H7NO
solvent | ether | 150 ml | CCOCC | C4H10O
solvent | ether | 15 ml | CCOCC | C4H10O
product | 5-(1-decynyl)-2-benzo[b]thiophenecarboxaldehyde | 11.5 g, 52.0% | C(#CCCCCCCCC)C1=CC2=C(SC(=C2)C=O)C=C1 | C19H22OS
